US07807684B2
Step 8: 3-chloro-5-{2-chloro-5-[2-(1H-pyrazolo[3,4-b]pyridin-3-yl)ethyl]phenoxy}benzonitrile (49-9)
A solution of 250 mg (0.50 mmol) of tert-butyl-3-{[4-chloro-3-(3-chloro-5-cyanophenoxy)phenyl]ethynyl}-1H-pyrazolo[3,4-]pyridine-1-carboxylate in 10 mL of absolute EtOH was hydrogenated at 1 atm pressure (balloon) over 250 mg of 10% Pd on carbon catalyst. After approximately 24 hours, the reaction mixture was filtered through a pad of Celite, and the filtrate concentrated in vacuo to a yellow oil. The crude intermediate oil was dissolved in 1 mL TFA, and the solution stirred at room temperature for 1 hour. The reaction mixture was concentrated in vacuo to provide the crude product as a dark oil. The dark oil was purified by reversed phase preparative LC on a Gilson apparatus to give the desired product as a fluffy off-white solid. MS M+=409. 1H NMR (CDCl3): 3.17 (t, 2H), 3.31 (t, 2H), 6.94 (m, 2H), 7.09 (m, 2H), 7.15 (q, 1H), 7.32 (t, 1H), 7.39 (d, 1H), 7.80 (dd, 1H), 8.54 (dd, 1H), 10.5-11.5 (very br, 1H).

reactant | tert-butyl-3-{[4-chloro-3-(3-chloro-5-cyanophenoxy)phenyl]ethynyl}-1H-pyrazolo[3,4-]pyridine-1-carboxylate | 0.50 mmol, 250 mg | C(C)(C)(C)OC(=O)N1N=C(C2=C1C=CC=N2)C#CC2=CC(=C(C=C2)Cl)OC2=CC(=CC(=C2)C#N)Cl | C26H18Cl2N4O3
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd on carbon | 250 mg | [Pd] | Pd
product | 3-chloro-5-{2-chloro-5-[2-(1H-pyrazolo[3,4-b]pyridin-3-yl)ethyl]phenoxy}benzonitrile | ClC=1C=C(C#N)C=C(C1)OC1=C(C=CC(=C1)CCC1=NNC2=NC=CC=C21)Cl | C21H14Cl2N4O
